US05780505
3-(4-Bromo-2,6-dimethyl-benzylamino)-4-tert-butylamino-cyclobut-3-ene-1,2-dione
A solution of 3-(4-bromo-2,6-dimethyl-benzylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione (0.49 g, 1.45 mmol), t-butylamine (26 mL) and dichloromethane (8 mL) was allowed to stand at room temperature for 18 hours, then refluxed for 8 hours. The resulting solid was filtered, rinsed with acetonitrile, and dried (0.4 mm, 40° C.). This gave 0.33 g (62%) of the title compound as an off-white solid: mp 267°-271° C. (dec); 1H NMR (DMSO-d6) δ7.40 (br s, 1H), 7.32 (s, 2H), 7.30 (br t, 1H), 4.76 (d, 2H), 2.34 (s, 6H), 1.34 (s, 9H) ppm. IR (KBr): 3200, 2980, 1790, 1650 cm-1 ; MS (m/z) 364/366 (M+).

reactant | 3-(4-bromo-2,6-dimethyl-benzylamino)-4-ethoxy-cyclobut-3-ene-1,2-dione | 1.45 mmol, 0.49 g | BrC1=CC(=C(CNC=2C(C(C2OCC)=O)=O)C(=C1)C)C | C15H16BrNO3
reactant | t-butylamine | 26 mL | C(C)(C)(C)N | C4H11N
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 3-(4-Bromo-2,6-dimethyl-benzylamino)-4-tert-butylamino-cyclobut-3-ene-1,2-dione | BrC1=CC(=C(CNC=2C(C(C2NC(C)(C)C)=O)=O)C(=C1)C)C | C17H21BrN2O2
